US04810828
6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidin-2-carboxaldehyde and 3-(tetrahydropyran-2-yloxy)-1-propynyl-magnesium bromide [J. Chem. Soc., 1950, 3646] were reacted by the method of Step A of Example 1 to obtain 1-(6-ethyl-7-methoxy-5-methylimidazol[1,2-a]pyrimidin-2-yl)-4-(tetrahydropyran-2-yloxy)-2-butyn-1-one.

reactant | 6-ethyl-7-methoxy-5-methylimidazo[1,2-a]pyrimidin-2-carboxaldehyde | C(C)C=1C(=NC=2N(C1C)C=C(N2)C=O)OC | C11H13N3O2
reactant | 3-(tetrahydropyran-2-yloxy)-1-propynyl-magnesium bromide | O1C(CCCC1)OCC#C[Mg]Br
product | 1-(6-ethyl-7-methoxy-5-methylimidazol[1,2-a]pyrimidin-2-yl)-4-(tetrahydropyran-2-yloxy)-2-butyn-1-one | C(C)C=1C(=NC=2N(C1C)C=C(N2)C(C#CCOC2OCCCC2)=O)OC | C19H23N3O4
